US08957214B2
2-aminopyridine (300 mg, 3.19 mmol) was dissolved in 15 mL of anhydrous dichloromethane, following which 919 mg (4.78 mmol) of EDC-HCl, 583 mg (4.78 mmol) of DMAP and 397 μL (628 mg, 3.83 mmol) of pentafluoropropionic acid were added in this order and the mixture was stirred overnight at room temperature. Following reaction completion, the reaction mixture was diluted with dichloromethane, washed once with water and twice with 1% hydrochloric acid, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure, affording 85 mg of 2,2,3,3,3-pentafluoro-N-(pyridin-2(1H)-ylidene)propanamide (yield, 11%).

reactant | 2-aminopyridine | 3.19 mmol, 300 mg | NC1=NC=CC=C1 | C5H6N2
reactant | EDC-HCl | 4.78 mmol, 919 mg | CCN=C=NCCCN(C)C.Cl
reactant | pentafluoropropionic acid | 3.83 mmol, 397 μL, 628 mg | FC(C(C(=O)O)(F)F)(F)F | C3HF5O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | DMAP | 4.78 mmol, 583 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,2,3,3,3-pentafluoro-N-(pyridin-2(1H)-ylidene)propanamide | 85 mg, 11% | FC(C(=O)N=C1NC=CC=C1)(C(F)(F)F)F | C8H5F5N2O
